US20010037043A1
Am. Chem. Soc., 109 (1987) 6544-6545, to J. A. Ewen et al. discloses a process similar to the one of Collins wherein, as described in the supplementary material to the article, two equivalents of indenyllithium are reacted with 1,2-dibromoethane dissolved in THF by warming the reaction mixture from −91° C. to 25° C. and stirring for 4 h. Bisindenylethane was obtained in a crude yield of 60%. The product was recrystallized from ethanol.

reactant | indenyllithium | two equivalents | C1(C=CC2=CC=CC=C12)[Li]
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
solvent | THF | C1CCOC1 | C4H8O
product | Bisindenylethane | C1(C=CC2=CC=CC=C12)C(C)C1C=CC2=CC=CC=C12 | C20H18
